2201-05-27 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-5-27**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 86 (74 - 92) bpm
   BP: 144/63(83) {122/53(73) - 177/90(96)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 100%
             Total In:
                                                                     40 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                     40 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                    185 mL
                                                                    520 mL
   Urine:
                                                                    185 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -145 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   115 K/uL
   7.3 g/dL
   52 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.3 mEq/L
   27 mg/dL
   116 mEq/L
   144 mEq/L
   24.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2201-5-26**]  10:38 PM
                             [**2201-5-27**]  03:52 AM
   WBC
   6.8
   5.8
   Hct
   31.0
   24.8
   Plt
   175
   115
   Cr
   1.6
   Glucose
   52
   Other labs: Albumin:3.1 g/dL, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   58 yof with history of CKD, Cirrhosis, BOOP and history of multiple
   drug overdoses with opiates presented to ER with lethargy.
   .
   # Lethargy - Most likely secondary to opiates given the history.  Ddx
   includes infectious (low grade fever in ED, LP negative) vs. other
   toxins like benzo (tox screen negative other than benzo) vs. metabolic
   (?uremia from renal failure, not very impressive) vs. Hypoglycemia (low
   BS now but on presentation it was 157).
   - CXR, UA negative for infection, LP negative. (received ceftriaxone in
   the ER).  Given history of cirrhosis may have ascities and thus would
   be improtant to rule out SBP.  Would check ultrasound for asicities.
   - F/u culture data
   - CIS
   - hold sedating medications (neurontin, citalaprom)
   - Narcan 0.4mg X 1 overnight with minimal change but patient easily
   arousable at baseline.  Can d/c q2 hour neuro checks.
   - Will empirically give thimaine and folate for now eventhough daughter
   denies etoh [**Last Name (LF) 2697**], [**First Name3 (LF) 178**] ask pt in AM.
   - If no improvement in lethargy by AM would consider gettign RPR, TSH,
   B12 in AM and consider treatment with lactulose although Urea only
   30's.
   .
   #Overdose: Chronic issue for this substance abusing patient.
   - social work consult this AM.
   - Obtain OSH records
   - Discuss with family.
   .
   # Acute renal failure - Unclear baseline(daughter stated she has some
   kidney failure).  Improved with IVF in ER.  Unclear baseline.  clearly
   volume overloaded on exam.
   - Urine Lytes equivocal with FeUrea of 35%
   - holding lasix, lisinpril for now.  Will need to get baseline labs
   from [**Hospital1 183**] in AM.
   .
   # Anemia - hct 29.6, unclear baseline, maybe from liver disease (MCV
   96) versus CKD
   - B12 and folate normal, Fe Sat 22%, Ferritin nml - Mixed picture with
   Anemia of chronic disease,
   - Continue PPI
   - Guaiac stools
   - Recheck AM labs as anticipate spurious value this AM.
   .
   #BOOP: Continue home prednisone dose, nebulizers PRN.
   - Follow oxygenation
   - Consider restarting lasix PRN.
   .
   # DM - hold glargine insulin for now and check fingersticks q2 given
   some low BS in the ER.
   .
   # Hyperkalemia -[**2-14**] hemolysis.  resolved.
   .
   # Cirrhosis - LFTs unremarkable but carries a diagnosis per history.
   Would hold lasix for now and reassess once we have baseline info from
   [**Hospital1 183**].
   - Check albumin
   - Would get abdominal ultrasound to evaluate for liver texture and
   ascities.
   .
   # Chronic low back pain - would hold off on gabapentin and narcotics
   for now.
   .
   # Chronic lund disease/BOOP - would continue prednisone at 5mg
   - nebs prn
   .
   # FEN - NPO for now until more arousable.
   # ppx - sc heparin, ppi (on it at home)
   # Communication/HCP - Daughter [**Name (NI) 2698**] [**Name (NI) 2699**] # [**0-0-**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-5-26**] 09:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-05-27 10:21:00 Physician Attending Progress Note
Chief Complaint: obtunded, drug od
   HPI:
   58 yo f w/ h/o CKD, DM, depression, cirrhosis, boop and prior admits
   for drug overdoses with opiates presents with lethargy ins etting of
   drug intoxication
   24 Hour Events:
   head ct unremarkable
   cxr without infiltrate
   transient hypoglycemia--improved with dextrose
   tox screen + opiates, o/w  neg
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-5-27**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-5-27**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.5
   HR: 88 (74 - 92) bpm
   BP: 141/63(84) {122/53(73) - 177/90(96)} mmHg
   RR: 17 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     40 mL
                                                                    198 mL
   PO:
             TF:
   IVF:
                                                                     40 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                    185 mL
                                                                    760 mL
   Urine:
                                                                    185 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -145 mL
                                                                   -562 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, lethargic
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : ), unable to coop
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, unable to coop with exam
   Labs / Radiology
   7.3 g/dL
   115 K/uL
   52 mg/dL
   1.6 mg/dL (3.1)
   18 mEq/L
   4.3 mEq/L
   27 mg/dL
   116 mEq/L
   144 mEq/L
   24.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2201-5-26**]  10:38 PM
                             [**2201-5-27**]  03:52 AM
   WBC
   6.8
   5.8
   Hct
   31.0
   24.8
   Plt
   175
   115
   Cr
   1.6
   Glucose
   52
   Other labs: ALT / AST:50 ast, Alk Phos / T Bili:80/ 0.4, Albumin:3.1
   g/dL, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: b12 folate wnl
   ferritin 31
   retic 2.3
   abg: 7.33/38/74 (not clear how much fio2)
   Imaging: cxr--rotated, small volumes, increased interstitial arkings,
   pulm edema, hazy right base but poor inspiratory effort
   Microbiology: bl cx pending
   csf cx pending
   stool cxs epdning, neg c diff
   Assessment and Plan
   58 yo f with dm,CKD, cirrhosis, obesity, PSA hx with prior admits for
   OD presents with lethargy/delirium with tox screen pos for opiates.
   # Lethargy /delirium/encephalopthy
   Most likely secondary to opiates given the history and did have initial
   response to narcan
   Metabolic component may be contributing with underlying liver
   disease/ckd, obesity and popssible obesity hypervenitaltion
   Infection w/u unimpressive
       Ddx includes infectious (low grade fever in ED, LP negative) vs.
   other toxins like benzo (tox screen negative other than benzo) vs.
   metabolic (?uremia from renal failure, not very impressive) vs.
   Hypoglycemia (low BS now but on presentation it was 157).
   CXR/UA negative for infection, LPunimpressive. (received ceftriaxone in
   the ER).
   Would check ultrasound for asicities.
   Stat abg to eval co2 level,
   Check ammonia level
   Narcan
        F/u culture data
   Ruq to eval for ascites /sbp given  h/o cirrhosis
   RPR, TSH, B12 in AM.
   ? HE component, check ammonia
   # Nongap metabolic acidosis
tox screen neg except for opiates,
   ? chronic kidney ds with RTA, diarrhea, check osm gap, repeat abg
   Osh labs to eval baseline
   # Acute renal failure
   Unclear baseline
   Creatinine improved with IVF in ER.
   - Check urine lytes.
   - holding lasix, lisinpril for now.
   get baseline labs from [**Hospital1 183**] in AM.
   .
   # DM - hold glargine insulin while NPO and given hypoglycemia in ed
   Chem sticks,
   RSSI
   .
   # Cirrhosis
   LFTs unremarkable
   Check albumin/ammonia
   Ruq us as noted
   # Chronic low back pain - would hold off on gabapentin and narcotics
   for now.
   # Anemia - hct 29.6, unclear baseline, maybe from liver disease (MCV
   96) versus CKD
   Anemia w/u and keep t and screen
   # Chronic lund disease/BOOP
   continue prednisone at 5mg
   nebs prn
   # FEN
   NPO, until more alert for asp risk
   # Communication/HCP - Daughter [**Name (NI) 2698**] [**Name (NI) 2699**] # [**0-0-**].
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2201-5-26**] 09:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes, critically ill

2201-05-28 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2201-5-27**] 12:30 PM
 ULTRASOUND - At [**2201-5-27**] 03:48 PM
   -Gave a 0.4mg dose of narcan, which she immediately responded to.  She
   was very agitated, so the decision was made not to manage her on a drip
   and let her sleep through this as long as she remained hemodynamically
   stable.
   -Records from [**Hospital1 **] in the chart- she has NASH cirrhosis and has
   freqent admissions with volume overload and drug overdoses.  She is not
   getting narcotics from her PCP or pain clinic doctors, so we are
   presuming she is getting them from outside sources.  Her social
   situation appears to be very difficult.
   -Started [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 2558**] scale, and gave her 10mg methadone for narcotic
   withdrawl
   -Osm gap 4
   -RUQ u/s c/w fatty liver, no ascites
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-5-27**] 08:00 AM
   Haloperidol (Haldol) - [**2201-5-27**] 12:30 PM
   Naloxone (Narcan) - [**2201-5-27**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-5-28**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 95 (85 - 111) bpm
   BP: 164/57(86) {141/57(78) - 200/80(109)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    469 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                    349 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    515 mL
   Urine:
                                                                  2,490 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,021 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.33/48/69/24/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.7 g/dL
   87 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   18 mg/dL
   114 mEq/L
   144 mEq/L
   29.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2201-5-26**]  10:38 PM
                             [**2201-5-27**]  03:52 AM
                             [**2201-5-27**]  10:35 AM
                             [**2201-5-27**]  10:49 AM
                             [**2201-5-28**]  04:48 AM
   WBC
   6.8
   5.8
   7.3
   6.9
   Hct
   31.0
   24.8
   28.2
   29.9
   Plt
   175
   115
   149
   151
   Cr
   1.6
   1.1
   0.8
   TCO2
   26
   Glucose
   52
   71
   70
   87
   Other labs: PT / PTT / INR:14.8/31.5/1.3, ALT / AST:20/39, Alk Phos / T
   Bili:320/0.7, Amylase / Lipase:44/11, Lactic Acid:0.8 mmol/L,
   Albumin:3.2 g/dL, LDH:256 IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Imaging: Abdominal USD:
   IMPRESSION:
   1. Coarsened echotexture of liver consistent with fatty liver.
   2. No ascites.
   .
   CXR: IMPRESSION: Malpositioned right PICC in right atrium; results
   communicated.
   Microbiology: Ua: Negative
   CSF: NG
   BXx: NGTD
   Stool:
   FECAL CULTURE (Pending):
      CAMPYLOBACTER CULTURE (Pending):
      FECAL CULTURE - R/O E.COLI 0157:H7 (Pending):
      FECAL CULTURE - R/O YERSINIA (Pending):
      FECAL CULTURE - R/O VIBRIO (Pending):
      CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2201-5-26**]):
         FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
      OVA + PARASITES (Final [**2201-5-27**]):
         NO OVA AND PARASITES SEEN.
         .
         This test does not reliably detect Cryptosporidium, Cyclospora or
         Microsporidium. While most cases of Giardia are detected by
   routine
         O+P, the Giardia antigen test may enhance detection when
   organisms
         are rare.
   Assessment and Plan
   58 yof with history of CKD, Cirrhosis and history of multiple drug
   overdoses with opiates presented to ER with lethargy.
   .
   # Lethargy - Most likely secondary to opiates given the history and
   positive narcan test yesterday but is still extremely somnolent.  Ddx
   includes infectious (low grade fever in ED, LP negative) vs. other
   toxins like benzo (tox screen negative other than benzo) vs. metabolic
   (?uremia from renal failure, not very impressive) vs. Hypoglycemia (low
   BS now but on presentation it was 157).
   - At this time, would consider [**Doctor Last Name 2558**] scale and titrate as directed.
   Hold narcan unless non-responsive, or in resipratory distress.
   - CXR, UA negative for infection, LP negative. (received ceftriaxone in
   the ER).  Given history of cirrhosis may have ascities and thus would
   be improtant to rule out SBP.  Would check ultrasound for asicities.
   - F/u culture data
   - CIS
   - hold sedating medications (neurontin, citalaprom)
   - Will empirically give thimaine and folate for now eventhough daughter
   denies etoh [**Last Name (LF) 2697**], [**First Name3 (LF) 178**] ask pt in AM.
   - If no improvement in lethargy by AM would consider gettign RPR, TSH,
   B12 in AM.
   .
   # Acute renal failure - Unclear baseline(daughter stated she has some
   kidney failure).  Improved with IVF in ER.
   - Creatinine down to 0.8 this AM -> baseline.
   - Check urine lytes.
   - holding lasix, lisinpril for now.  Goal I/O net even and lasix prn.
   Would hold Lasix/ACE until stable x24 hours.
   - Continue maitnence fluids.  Need to be wary of volume overload.
   .
   # DM - hold glargine insulin for now and check fingersticks q2 given
   some low BS in the ER.
   - transition to q4H finger sticks
   - restart home insulin when taking PO's.
   .
   #Volume: H/o diastolic dysfunction and ARF leading to volume overload.
   - consider TTE for eval of cardiac function
   - Decreased fluids to 75cc/hr maintenence fluids while NPO.
   .
   # NASH - LFTs unremarkable but carries a diagnosis per history.
   - USD w/o e/o ascites, c/w NASH/fatty liver
   .
   # Chronic low back pain - would hold off on gabapentin and narcotics
   for now.
   - [**Doctor Last Name 2558**] scale
   .
   # Anemia - hct 29.6, unclear baseline, maybe from liver disease (MCV
   96) versus CKD
   - guaiac stools
   - B12 folate nml, Fe c/w ACD, stable from [**Hospital1 183**] records.
   .
   # Chronic lung disease/BOOP - would continue prednisone at 5mg
   - nebs prn -> improved this AM with nebulizer.  95-96% on RA
   currently.  Titrate O2 to sats = 90-95%.
   .
   # Hyperkalemia - resolved.
   # FEN - NPO for now until more arousable.
   # ppx - sc heparin, ppi (on it at home)
   # Communication/HCP - Daughter [**Name (NI) 2698**] [**Name (NI) 2699**] # [**0-0-**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-5-27**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-05-28 10:16:00 Physician Attending Progress Note
Chief Complaint: opiate od
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo Spanish speaking F w/ h/o CKD, DM, depression, cirrhosis, boop
   and multiple prior admits for drug overdoses (opiates) presents with
   lethargy in setting of drug intoxication (street drugs), transient
   hypoglycemia (cs 64-75 range) and low grade temp.
   24 Hour Events:
 PICC LINE - START [**2201-5-27**] 12:30 PM
 ULTRASOUND - At [**2201-5-27**] 03:48 PM
   osh records--h/o nash, multiple admits for opiate o/d
   narcan given--> responded , became fully awake and agitated
   overnight appeared to be withdrawing from opiates, methoadone started
   ruq u/s--c/w fatty liver
                             History obtained from Medical records, HO
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2201-5-27**] 12:30 PM
   Naloxone (Narcan) - [**2201-5-27**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2201-5-28**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-5-28**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 100 (88 - 111) bpm
   BP: 173/73(98) {144/57(83) - 200/80(109)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 95%  (RA)
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    469 mL
                                                                    252 mL
   PO:
             TF:
   IVF:
                                                                    349 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    690 mL
   Urine:
                                                                  2,490 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,021 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.33/48/69/24/-1
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, lethargic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant, Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Purposeful, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   151 K/uL
   87 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   18 mg/dL
   114 mEq/L
   144 mEq/L
   29.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2201-5-26**]  10:38 PM
                             [**2201-5-27**]  03:52 AM
                             [**2201-5-27**]  10:35 AM
                             [**2201-5-27**]  10:49 AM
                             [**2201-5-28**]  04:48 AM
   WBC
   6.8
   5.8
   7.3
   6.9
   Hct
   31.0
   24.8
   28.2
   29.9
   Plt
   175
   115
   149
   151
   Cr
   1.6
   1.1
   0.8
   TCO2
   26
   Glucose
   52
   71
   70
   87
   Other labs: PT / PTT / INR:14.8/31.5/1.3 , ALT / AST:20/39, Alk Phos /
   T Bili:320/0.7  (stable), Amylase / Lipase:44/11, Lactic Acid:0.8
   mmol/L, Albumin:3.2 g/dL, LDH:256 IU/L  (211), Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: osm gap 4
   Imaging: cxr--no new film
   Microbiology: csf ngtd
   stool studies neg
   u/a neg
   Assessment and Plan
   58 yo Spanish speaking F w/ h/o CKD, DM, depression, cirrhosis, boop
   and multiple prior admits for drug overdoses (opiates) presents with
   lethargy in setting of drug intoxication (street drugs), transient
   hypoglycemia (cs 64-75 range) and low grade temp.
   # Lethargy /delirium
   Most likely secondary to intoxication from opiates given hx and initial
   response to narcan then with signs of withdrawl
   Metabolic component possibly contributing initially --underlying liver
   disease/ckd, possible obesity hypoventilation/hypoventilation from
   narcs, hypoglycemia,
   No new s/sx of infection
   f/u cx
neg to date/ruq unremarkable
   continue methadone taper [**First Name8 (NamePattern2) **] [**Doctor Last Name **] scale
   - abg to eval CO2 level
   - Ammonia level (? HE)
   - RPR, TSH, B12 pending
    #HTN
h/o htn, withdrawal may be continubtuing
   Restart lasix, monitor u/o cr and restart lisinopril if BP remains
   elevated
   # Nongap metabolic acidosis
completely normalized tox screen + for
   opiates
   ? [**2-14**] chronic kidney ds with RTA, ? diarrhea, dehydration
   No osm gap, improved with hydration
   # Acute renal failure
resolved to baseline with hydration
   # DM - hold glargine while NPO/ given hypoglycemia in ed
   Chem. Sticks
   RSSI
   # Cirrhosis
   LFTs unremarkable
   RUQ c/w known NASH
   # Chronic LBP
   hold off on gabapentin and narcotics for now  (methadone)
   # Anemia - hct 29.6, unclear baseline
   Anemia w/u and keep t and screen
   # Chronic lung disease/BOOP
   continue prednisone at 5mg
   nebs prn
   # FEN
   NPO, until more alert for asp risk
   d/c fluids with genbtle diuresis
   # Communication/HCP - Daughter [**Name (NI) 2698**] [**Name (NI) 2699**] # [**0-0-**]
   # Social issues:  sw c/s, psych c/s, once more alert
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2201-5-27**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : stable for floor transfer
   Total time spent: 40 minutes

2201-05-29 07:28:00 Physician Resident Progress Note
Chief Complaint: Drug Overdose - opiate
   24 Hour Events:
   - titrated up her BP meds by placing back on her lisinopril and
   metoprolol, still hypertensive, diuresed very well to 40mg oral lasix
   - [**Doctor Last Name 2558**] scale less than 3 so no further methadone given
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2201-5-28**] 11:50 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2201-5-28**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2201-5-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-5-29**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 93 (88 - 104) bpm
   BP: 184/74(100) {163/57(83) - 194/83(110)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    714 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                    474 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    655 mL
   Urine:
                                                                  3,570 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,856 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: white discharge in oropharynx
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: transmitted upper airway sounds, poor respiratory
   effort
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   169 K/uL
   9.6 g/dL
   191 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   16 mg/dL
   108 mEq/L
   143 mEq/L
   28.9 %
   9.2 K/uL
        [image002.jpg]
                             [**2201-5-26**]  10:38 PM
                             [**2201-5-27**]  03:52 AM
                             [**2201-5-27**]  10:35 AM
                             [**2201-5-27**]  10:49 AM
                             [**2201-5-28**]  04:48 AM
                             [**2201-5-28**]  05:41 PM
                             [**2201-5-29**]  04:05 AM
   WBC
   6.8
   5.8
   7.3
   6.9
   9.2
   Hct
   31.0
   24.8
   28.2
   29.9
   28.9
   Plt
   175
   115
   149
   151
   169
   Cr
   1.6
   1.1
   0.8
   0.8
   0.8
   TCO2
   26
   Glucose
   52
   71
   70
   87
   171
   191
   Other labs: PT / PTT / INR:15.7/36.4/1.4, ALT / AST:16/28, Alk Phos / T
   Bili:295/0.9, Amylase / Lipase:44/11, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:260 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.9
   mg/dL
   Imaging: No New
   Microbiology: RPR: Negative
   No new micro
   Assessment and Plan
   58 yof with history of CKD, Cirrhosis and history of multiple drug
   overdoses with opiates presented to ER with lethargy.
   .
   # Lethargy - Clearly responsive to narcan but taking long time to
   clear.  ?secondary component of hepatic encephalopathy.  No clear
   infectious source at this time, and metabolic distrubances are mild by
   laboratory data.  Hypoglycemia resolved.
   - At this time, would continue [**Doctor Last Name 2558**] scale and titrate as directed - has
   not needed further doses of opiates and is clearly still heavily
   sedated.  Hold narcan unless non-responsive, or in resipratory failure.
   - CXR, UA negative for infection, USD w/o ascites, LP negative.
   (received ceftriaxone in the ER).
   - F/u culture data
   - CIS
   - hold sedating medications (neurontin, citalaprom)
   - Will empirically give thimaine and folate for now eventhough daughter
   denies etoh [**Last Name (LF) 2697**], [**First Name3 (LF) 178**] ask pt in AM.
   - RPR, B12, folate normal.
   .
   # Acute renal failure
 Baseline 0.8
 improved with IVF
s and now
   stable after restarting ACE and diuresis yesterday
   - Restarting lasix today, holding ACE.  Restart ACE prn.
   - Redose 20mg lasix this AM, goal net out 1L
   .
   #Non-Gap Metabolic Acidosis: Osmolar gap normal
   - Resolved.
   .
   # DM - hold glargine insulin for now and check fingersticks q2 given
   some low BS in the ER.
   - Still not taking PO's, finger sticks trending upwards overnight
   .
   #Hypertension: [**2-14**] to withdrawal but persistently hypertensive this AM
   and clearly not in withdrawal at this time.  Will start with lasix, and
   treat with opiates PRN for withdrawal.  Restart lisinopril PRN.
   - Continue with lisinopril, metoprolol -  uptitrate as tolerated to
   25mg PO TID today.
   .
   # Volume: H/o diastolic dysfunction and ARF leading to volume
   overload.
   - consider TTE for eval of cardiac function
   - Continue diuresis
   .
   # Withdrawal: On [**Doctor Last Name 2558**] for narcotic withdrawal.  Will redose with 8mg
   methadone at next time [**Doctor Last Name 2558**] > 10.
   - Hypertension/tachycardia concerning for benzo withdrawal.  Family
   reports only opiate abuse.  Serum etoh negative on admit.  Continue to
   follow.  Consider low dose benzo trial if hypertension refractory to
   meds.
   .
   # NASH - LFTs unremarkable but carries a diagnosis per history.
   - USD w/o e/o ascites, c/w NASH/fatty liver
   .
   # Chronic low back pain - would hold off on gabapentin and narcotics
   for now.
   - [**Doctor Last Name 2558**] scale
   .
   #Thrush: Continue fluconazole for 5 days.
   - Check HIV test once alert enough to consent.
   .
   # Anemia - hct 29.6, unclear baseline, maybe from liver disease (MCV
   96) versus CKD
   - guaiac stools negative x3
   - B12 folate nml, Fe c/w ACD, stable from [**Hospital1 183**] records.
   .
   # Chronic lung disease/BOOP - would continue prednisone at 5mg
   - nebs prn -> improved this AM with nebulizer.  95-96% on RA
   currently.  Titrate O2 to sats = 90-95%.
   .
   # Hyperkalemia - resolved.
   # FEN - NPO for now until more arousable. NG tube in place
   # ppx - sc heparin, ppi (on it at home)
   # Communication/HCP - Daughter [**Name (NI) 2698**] [**Name (NI) 2699**] # [**0-0-**].
   # Access: PICC placed [**2201-5-27**] - now day 2
   # Code: Presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-5-27**] 12:30 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out to floor yesterday

2201-05-29 12:36:00 Physician Attending Progress Note
Chief Complaint: opiate od/somnolence
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  58 yo Spanish speaking F w/ h/o CKD, DM, depression, cirrhosis,
   boop and multiple prior admits for drug overdoses (opiates) presents
   with lethargy in setting of drug intoxication (street drugs), transient
   hypoglycemia (cs 64-75 range) and low grade temp.
   24 Hour Events:
   htn
 lasix, metop, lisinopril restarted
   History obtained from ho
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2201-5-28**] 11:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-5-29**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-5-29**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 86 (82 - 104) bpm
   BP: 183/80(108) {165/62(88) - 194/93(110)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 92%  (RA)
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    714 mL
                                                                    398 mL
   PO:
             TF:
   IVF:
                                                                    474 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    975 mL
   Urine:
                                                                  3,570 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,856 mL
                                                                   -577 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, lethargic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, shoprt obese neck
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: normal
   Labs / Radiology
   9.6 g/dL
   169 K/uL
   191 mg/dL
   0.8 mg/dL (b/l)
   25 mEq/L
   3.7 mEq/L
   16 mg/dL
   108 mEq/L
   143 mEq/L
   28.9 %
   9.2 K/uL
        [image002.jpg]
                             [**2201-5-26**]  10:38 PM
                             [**2201-5-27**]  03:52 AM
                             [**2201-5-27**]  10:35 AM
                             [**2201-5-27**]  10:49 AM
                             [**2201-5-28**]  04:48 AM
                             [**2201-5-28**]  05:41 PM
                             [**2201-5-29**]  04:05 AM
   WBC
   6.8
   5.8
   7.3
   6.9
   9.2
   Hct
   31.0
   24.8
   28.2
   29.9
   28.9
   Plt
   175
   115
   149
   151
   169
   Cr
   1.6
   1.1
   0.8
   0.8
   0.8
   TCO2
   26
   Glucose
   52
   71
   70
   87
   171
   191
   Other labs: PT / PTT / INR:15.7/36.4/1.4  (1.3), ALT / AST:16/28, Alk
   Phos / T Bili:295/0.9, Amylase / Lipase:44/11, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:260 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.9
   mg/dL
   Fluid analysis / Other labs: rpr neg
   Imaging: no new film
   Microbiology: no new data
   Assessment and Plan
   58 yo Spanish speaking F w/ h/o CKD, DM, depression, cirrhosis, boop
   and multiple prior admits for drug overdoses (opiates) presents with
   lethargy in setting of opiate intoxication (street drugs), transient
   hypoglycemia (cs 64-75 range) and low grade temp.
    # Lethargy /delirium
   [**2-14**] intoxication from opiates
 showed clear response to narcan, and
   later  signs of withdrawal on narcan drip
   Work up pursued to assess for metabolic component -Given underlying
   liver disease/ckd, possible obesity hypoventilation/hypoventilation
   from narcs, hypoglycemia
        (ABG without sig co2 retension, ruq without ascites for sbp, renal
   fx normalized, ammonia  wnl, rpr, tsh, folate b12 wnl)
   Slightly more alert this am, but waxing and [**Doctor Last Name 42**], and lethargy is
   lingering,  nonfocal exam
        -Repeat narcan dose
         -Recheck abg for CO2
         - No new s/sx of infection (af, stable wbc)  but will recheck
   u/a, cx neg to date
        -  hold sedating meds
methadone [**First Name8 (NamePattern2) **] [**Doctor Last Name **], but has not required
   additional doses
         - continue thiamine/folate
          - trial of lactulose, though low suspciion of HE
   # HTN
   Has h/o htn on lasix, metop, lisinopril
   withdrawal ?  contributing
   diurese with lasix
   continue metop, lisinopril
>increase  to 40
   #DM
 BS increasing as holding glargine while NPO, restart low dose
   glargine , cs/ssi
   # Cirrhosis/nash
   LFTs remain stable/unremarkable,
   RUQ c/w known NASH, no ascitis
   # Anemia
 hct stable at baseline
   # Chronic lung disease/BOOP
   continue prednisone at 5mg
   nebs prn
   # FEN
   NPO until more alert for asp risk
   Has NGT
   If no improvement consider starting TFs in next 1-2 days
   # Communication/HCP - Daughter [**Name (NI) 2698**] [**Name (NI) 2699**] # [**0-0-**]
   # Social issues:  sw c/s, psych c/s, once more alert
   ICU Care
   Nutrition:
   NPO advance when more alert
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2201-5-27**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : stable for transfer to floor
   Total time spent: 40 minutes